US08334292B1
Step 1: Preparation of 5-bromo-2-chloro-4-methyl-6-(oxetan-3-yloxy)pyrimidine (1)
To a solution of oxetan-3-ol (0.368 g, 4.96 mmol) in anhydrous THF (16 mL) at 0° C. was added NaH (60% in mineral oil, 213 mg, 5.32 mmol). The mixture was stirred at 0° C. for 20 min, then 5-bromo-2,4-dichloro-6-methylpyrimidine (0.800 g, 3.30 mmol) was added to the mixture at 0° C. and stirred for 5 min. After this time the reaction was quenched with saturated aqueous NH4Cl and extracted with EtOAc. The organic layer was separated, dried (Na2SO4) and concentrated in vacuo. The residue was purified using ISCO chromatography (24 g silica gel, 1-25% EtOAc in hexanes in 40 min) to give the title compound (0.566 g, 61%) as a white oil. 1H NMR (CDCl3, 500 MHz) δ 5.71-5.66 (m, 1H), 5.030-4.99 (m, 2H), 4.79-4.76 (m, 2H), 2.59 (s, 3H).

reactant | oxetan-3-ol | 4.96 mmol, 0.368 g | O1CC(C1)O | C3H6O2
reactant | NaH | 5.32 mmol, 213 mg | [H-].[Na+]
reactant | 5-bromo-2,4-dichloro-6-methylpyrimidine | 3.30 mmol, 0.800 g | BrC=1C(=NC(=NC1C)Cl)Cl | C5H3BrCl2N2
solvent | THF | 16 mL | C1CCOC1 | C4H8O
product | 5-bromo-2-chloro-4-methyl-6-(oxetan-3-yloxy)pyrimidine | 0.566 g, 61% | BrC=1C(=NC(=NC1OC1COC1)Cl)C | C8H8BrClN2O2
